US05026862
A mixture of 300 g of trimethyl phosphite and 200 ml of 2,3-butanediol was heated to 100° C. and the methanol formed was distilled off to obtain 170 g of 2-methoxy-4,5-dimethyl-1,3,2-dioxaphospholane with a boiling point of 66° C. at 20 mm Hg, 37 g of the said product were added over two hours to 62.5 g of tert.-butyl bromoacetate heated to 115° C. under reduced pressure of 140 mm Hg and the volatile products were removed under reduced pressure to obtain 59 g of 2-tert.-butoxycarbonylmethyl-4,5-dimethyl-2-oxo-1,3,2-dioxaphospholane which slowly crystallized.

reactant | trimethyl phosphite | 300 g | P(OC)(OC)OC | C3H9O3P
reactant | 2,3-butanediol | 200 ml | CC(C(C)O)O | C4H10O2
solvent | methanol | CO | CH4O
product | 2-methoxy-4,5-dimethyl-1,3,2-dioxaphospholane | 170 g | COP1OC(C(O1)C)C | C5H11O3P
